US07432270B2
(S)-2-(Quinazolin4-ylaminomethyl)-piperidine
(S)-2-(Quinazolin4-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester (1.2 g) was dissolved in trifluoroacetic acid (60 ml) and stirred at room temperature for 2 hours. The solution was then evaporated and the residue chromatographed over silica gel, eluting with 0 to 10% (9:1 methanol-concentrated ammonia solution) in dichloromethane. The title compound was obtained as a white foam (0.84 g), MH+ 243.

reactant | (S)-2-(Quinazolin4-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CNC1=NC=NC2=CC=CC=C12 | C19H26N4O2
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2-(Quinazolin4-ylaminomethyl)-piperidine | N1=CN=C(C2=CC=CC=C12)NC[C@H]1NCCCC1 | C14H18N4
